US09359375B2
A mixture of 1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)cyclopentanecarboxamide (90 mg, 0.318 mmol), 3-aminoquinoline (58 mg, 0.402 mmol), sodium phenoxide trihydrate (85 mg, 0.500 mmol), xantphos (30 mg, 0.051 mmol) and Pd2 dba3 (20 mg, 0.021 mmol) in dioxane (2 mL) was degassed with Ar, then was stirred at 110 C for 4 h. Water and EtOAc were added. The organic phase was washed with aq. 1N NaOH, dried over Na2SO4, concentrated in vacuo to give crude 1-(5-cyano-3-fluoro-6-(quinolin-3-ylamino)pyridin-2-ylamino)cyclopentanecarboxamide.

reactant | 1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)cyclopentanecarboxamide | 0.318 mmol, 90 mg | ClC1=C(C=C(C(=N1)NC1(CCCC1)C(=O)N)F)C#N | C12H12ClFN4O
reactant | 3-aminoquinoline | 0.402 mmol, 58 mg | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | sodium phenoxide trihydrate | 0.500 mmol, 85 mg | O.O.O.[O-]C1=CC=CC=C1.[Na+]
reactant | xantphos | 0.051 mmol, 30 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.021 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(5-cyano-3-fluoro-6-(quinolin-3-ylamino)pyridin-2-ylamino)cyclopentanecarboxamide | C(#N)C=1C=C(C(=NC1NC=1C=NC2=CC=CC=C2C1)NC1(CCCC1)C(=O)N)F | C21H19FN6O
